US08536201B2
To the solution of N-[(1S)-1-(4-bromophenyl)ethyl]cyclopropanecarboxamide (0.134 g) and 2,6-bis(trifluoromethyl)-4-[3-(trifluoromethyl)pyrrolidin-3-yl]pyridine (0.195 g) in toluene was added sodium tert-butoxide (0.096 g), tris(dibenzylideneacetone)dipalladium chloroform complex (0.010 g) and xantphos (0.017 g) and the vessel was applied by Ar gas. The vessel was sealed and applied to microwave reactor at 120° C. for 10 min. The mixture was cooled to room temperature and then poured into water, which was then extracted twice with ethyl acetate. The organic layer was combined, which was then washed with water and dried over anhydrous magnesium sulfate. After the drying agent was filtered off, the solvent was distilled away under the reduced pressure, and the residue was then purified by silica gel chromatography to yield N-[(1S)-1-(4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)pyrrolidin-1-yl}phenyl)ethyl]cyclopropanecarboxamide (0.272 g).

reactant | N-[(1S)-1-(4-bromophenyl)ethyl]cyclopropanecarboxamide | 0.134 g | BrC1=CC=C(C=C1)[C@H](C)NC(=O)C1CC1 | C12H14BrNO
reactant | 2,6-bis(trifluoromethyl)-4-[3-(trifluoromethyl)pyrrolidin-3-yl]pyridine | 0.195 g | FC(C1=NC(=CC(=C1)C1(CNCC1)C(F)(F)F)C(F)(F)F)(F)F | C12H9F9N2
reactant | sodium tert-butoxide | 0.096 g | CC(C)([O-])C.[Na+]
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | xantphos | 0.017 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | N-[(1S)-1-(4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)pyrrolidin-1-yl}phenyl)ethyl]cyclopropanecarboxamide | 0.272 g | FC(C1=NC(=CC(=C1)C1(CN(CC1)C1=CC=C(C=C1)[C@H](C)NC(=O)C1CC1)C(F)(F)F)C(F)(F)F)(F)F | C24H22F9N3O
